US08168788B2
(4-Chloro-phenyl)-(2-chloro-6-trifluoromethyl-pyrimidin-4-yl)-amine
To a solution of 2,4-dichloro-6-trifluoromethyl-pyrimidine (90 mg, 0.41 mmol) in n-butanol (1 mL), was added 4-chloro-phenylamine (52 mg, 0.416 mmol) and DIPEA (72 uL, 0.416). The mixture was stirred at 100° C. for overnight. The LC-MS showed the desired product mass [MS:(ESI), M/Z, 308 (M+1). Retention time: 2.70 min (FA-polar)]. This intermediate was used in situ without purification.

reactant | 2,4-dichloro-6-trifluoromethyl-pyrimidine | 0.41 mmol, 90 mg | ClC1=NC(=CC(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | 4-chloro-phenylamine | 0.416 mmol, 52 mg | ClC1=CC=C(C=C1)N | C6H6ClN
reactant | DIPEA | 72 uL | CCN(C(C)C)C(C)C | C8H19N
solvent | n-butanol | 1 mL | C(CCC)O | C4H10O
product | (4-Chloro-phenyl)-(2-chloro-6-trifluoromethyl-pyrimidin-4-yl)-amine | ClC1=CC=C(C=C1)NC1=NC(=NC(=C1)C(F)(F)F)Cl | C11H6Cl2F3N3
